Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[O:1]=[C:2][H:3],3.6347945155
[H:1][O:2][C:3]([H:4])[C:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11]>>[C:3]([H:4])#[C:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11].[H:1][O:2],3.3603179402200003
[O:1]=[C:2]([C:3][H:4])[C:5](=[C:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:2](#[C:3][H:4])[C:5](=[C:6][H:7])[C:8]([H:9])([H:10])[H:11].[O:1],2.75900265942
[H:1][O:2][C:3]#[C:4][C:5]([H:6])[H:7].[O:8][H:9]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[O:8][H:9],-4.7232370685100005
[C:1]#[C:2][C:8]([H:9])([H:10])[H:11].[C:3](#[C:4][H:5])[O:6][H:7]>>[C:1]=[C:2]([C:3](=[C:4][H:5])[O:6][H:7])[C:8]([H:9])([H:10])[H:11],-1.05573064842
[H:1][C:2]#[C:3][O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]#[C:3][O:4]/[C:5]=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12].[H:6],4.9202174775300005
[H:1][C:2]([H:3])[O:4][C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10]>>[H:1][C:2][O:4][C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10].[H:3],3.96561616663
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]=[C:9](\[H:10])[O:11][H:12]>>[H:1][C:2]#[C:3][C:5]([H:6])([H:7])/[C:8]=[C:9](\[H:10])[O:11][H:12].[H:4],2.02817727321
[C:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][H:8]>>[C:1]=[O:2].[C:3]([H:4])=[C:5]([H:6])[O:7][H:8],-1.12958772992
[H:1][O:2][C:3]([H:4])([H:5])[O:6]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])[H:13]>>[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9][H:10],5.8195503495
[H:1][C:2]#[C:3][H:4].[O:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11],0.45440198915
[C:1][C:2]([H:3])([H:4])[C:5](=[O:6])[O:7][H:8]>>[C:1].[C:2]([H:3])([H:4])[C:5](=[O:6])[O:7][H:8],3.5841181380800005
[H:15].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15],-1.96610093642
[O:1]=[C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[H:7].[O:1]=[C:2]([H:3])[C:4](=[C:5][H:6])[C:8]([H:9])([H:10])[H:11],5.02925347365
[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2][H:3],6.23555876541
[H:10].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]=[O:9]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8][O:9][H:10],-2.54203008482
[C:7]([H:8])([H:9])[H:10].[H:1][C:2]#[C:3][O:4][O:5][H:6]>>[H:1][C:2]=[C:3]([O:4][O:5][H:6])[C:7]([H:8])([H:9])[H:10],-1.93170961058
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])=[C:9][H:10]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:7]#[C:9][H:10].[C:6][H:8],2.80515769387
[C:1][C:2]([H:3])([H:4])[O:5]/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])=[C:8][H:9].[O:10][H:11],5.95629811849
[C:10][H:11].[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8][H:9]>>[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11],-8.928394260510002
[H:1][O:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:12].[H:1][O:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])=[C:10][H:11],5.011327044750001
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6](=[O:7])[C:8][H:9]>>[H:5].[O:1]=[C:2]=[C:3]([H:4])[C:6](=[O:7])[C:8][H:9],1.6197426653799998
[H:1][C:2][O:3][C:4]#[C:5][H:6]>>[C:2][O:3][C:4]#[C:5][H:6].[H:1],3.575331294
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1].[O:2][C@@:3]([H:4])([C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],4.73145316018
[H:1][C:2]=[C:3]([H:4])[O:5]/[C:6]([H:7])=[C:9]/[C:10]([H:11])([H:12])[H:13].[H:8]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13],-1.67275249365
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:9]([H:10])([H:11])[H:12].[H:8]>>[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-1.8448286505
[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:8](\[H:9])[C:10]([H:11])[H:12].[H:7]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-3.3266140128900004
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]=[C:4]([H:5])[H:6],4.2271430784599975
[H:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])([C:10]([H:11])([H:12])[O:13])[C:14]([H:15])[H:16]>>[H:1][C:2]([H:3])([H:4])[C:5]1([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][C:14]1([H:15])[H:16],-2.68644348
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][H:11].[O:12][H:13]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[O:12][H:13],-6.43430066653
